US07582773B2
Step 1: Synthesis of [4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(1-benzyl-2,3-dimethyl-1H-indol-5-yl)-phenol (0.300 g, 0.916 mmol) was reacted with K2CO3 (0.152 g, 1.099 mmol) and methyl bromoacetate (0.168 g, 1.099 mmol) in acetone (10 ml) to give the product (0.233 g, 0.583 mmol, 64%) as a purple solid, mp 133-136° C. 1H NMR (DMSO-d6) δ 2.24 (s, 3H), 2.28 (s, 3H), 3.71 (s, 3H), 4.82 (s, 2H), 5.39 (s, 2H), 6.98 (d, J=8.6 Hz, 4H), 7.20 (t, J=7.2 Hz, 1H), 7.26-7.29 (m, 3H), 7.37 (d, J=8.4 Hz, 1H), 7.58 (d, J=8.7 Hz, 2H), 7.62 (s, 1H); [ESI(+)], m/z 400 (M+H)+.

reactant | 4-(1-benzyl-2,3-dimethyl-1H-indol-5-yl)-phenol | 0.916 mmol, 0.300 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)C)C | C23H21NO
reactant | K2CO3 | 1.099 mmol, 0.152 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 1.099 mmol, 0.168 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [4-(1-Benzyl-2,3-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)C)=O | C26H25NO3
